US05556861
8-(3-Amino-3-methyl-1-azetidinyl)-1-ethyl-7-fluoro-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid was prepared under the conditions described in Example 15, but starting with 1.52 g of 7,8-difluoro-1-ethyl-4-oxo-1,4-dihydrobenzo[b][1,8]-naphthyridine-3-carboxylic acid and 2.22 g of 3-amino-3-methylazetidine dimethanesulphonate, for 72 hours at approximately 20° C. and then 1 and a half hours at a temperature in the region of 90° C. The insoluble matter in the reaction mixture is drained at approximately 20° C., washed with twice 20 cm3 of water, recrystallized in 70 cm3 of dimethylformamide and washed with 40 cm3 of ethanol at approximately 75° C. 1.45 g of 8-(3-Amino-3-methyl-1-azetidinyl)-1-ethyl-7-fluoro-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid are obtained in the form of a yellow solid, which decomposes at 334° C.

reactant | 7,8-difluoro-1-ethyl-4-oxo-1,4-dihydrobenzo[b][1,8]-naphthyridine-3-carboxylic acid | 1.52 g | FC1=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)O)CC)C=C1F | C15H10F2N2O3
reactant | 3-amino-3-methylazetidine dimethanesulphonate | 2.22 g | CS(=O)(=O)O.CS(=O)(=O)O.NC1(CNC1)C
product | 8-(3-Amino-3-methyl-1-azetidinyl)-1-ethyl-7-fluoro-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid | 1.45 g | NC1(CN(C1)C=1C(=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)O)CC)C1)F)C | C19H19FN4O3
